US04481268
(i) Ethyl 2-(4-nitrophenylthio)acetate
Sodium metal (3.6 g, 0.16 m) was dissolved in ethanol (250 ml) and 4-nitrothiophenol (25 g, 0.13 m) was added to it. To the above mixture was added ethyl chloroacetate (16.0 g). After refluxing for 1 hr, the suspension was filtered. The filtrate was concentrated (50 ml) and allowed to cool, precipitation occurred. The product was collected and dried under vacuum to afford yellow crystals 78% yield, mp. 43°-45° C. It was characterised by spectroscopic analysis.

reactant | Sodium | 3.6 g | [Na] | Na
reactant | 4-nitrothiophenol | 25 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | ethyl chloroacetate | 16.0 g | ClCC(=O)OCC | C4H7ClO2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | Ethyl 2-(4-nitrophenylthio)acetate | 78% yield | [N+](=O)([O-])C1=CC=C(C=C1)SCC(=O)OCC | C10H11NO4S
